* C:\Users\HP\eda\designs\ChipAcharya\EEG_Frontend\Draft1.asc
* Generated by LTspice 24.1.8 for Windows.
B1 AFE_AMP_OUT 0 V=20*(V(INP)-V(INN))
X§X1 INN INP EEG_INPUT_MODEL
C_HP HP_OUT AFE_AMP_OUT 330n
R_HP HP_OUT 0 1Meg
C_LP LP_OUT 0 390n
R_LP LP_OUT AFE_AMP_OUT 10K
B2 AFE_OUT 0 V=10*V(LP_OUT)

* block symbol definitions
.subckt EEG_INPUT_MODEL INN INP
B1 EEG 0 V=15u*sin(2*pi*3*time+0.2)+15u*sin(2*pi*6*time+0.6)+(60u*if(time<4,1,if(time<7,0.15,1)))*sin(2*pi*10*time+1)+(10u*if(time<4,1,if(time<7,2.5,1)))*sin(2*pi*20*time+0.1)
B2 ALPHA 0 V=30u*sin(2*pi*10*time+1)
B3 BETA 0 V=5u*sin(2*pi*20*time+0.2)
B4 THETA 0 V=10u*sin(2*pi*6*time+0.4)
B5 DELTA 0 V=20u*sin(2*pi*2*time)
V1 VCM 0 0.9
B6 INP_IDEAL 0 V=V(VCM)+0.5*V(EEG)
B7 INN_IDEAL 0 V=V(VCM)-0.5*V(EEG)
B8 INP_IDEAL_NOISY 0 V=V(VCM_NOISY)+0.5*V(EEG_FINAL)
B9 INN_IDEAL_NOISY 0 V=V(VCM_NOISY)-0.5*V(EEG_FINAL)
B10 VCM_NOISY 0 V=0.9+100m*sin(2*pi*50*time)
R_EP1 INP1 INP_IDEAL_NOISY 50K
R_EN1 INN1 INN_IDEAL_NOISY 70K
V2 VCM_BIAS 0 0.9
R1 VCM_BIAS INN1 100Meg
R2 VCM_BIAS INP1 100Meg
R_EP2 INP EP_INT 500K
R_EN2 INN EN_INT 700K
R3 VCM_BIAS INN 100Meg
R4 VCM_BIAS INP 100Meg
R5 EP_INT INP_IDEAL_NOISY 10K
R6 EN_INT INN_IDEAL_NOISY 15K
C1 INP EP_INT 100n
C2 INN EN_INT 68n
B11 ALPHA_DYNAMIC 0 V=(60u*if(time<4,1,if(time<7,0.15,1)))*sin(2*pi*10*time+1)
B12 BETA_DYNAMIC 0 V=(10u*if(time<4,1,if(time<7,2.5,1)))*sin(2*pi*20*time+0.1)
B13 DELTA_DYNAMIC 0 V=15u*sin(2*pi*3*time+0.2)
B14 THETA_DYNAMIC 0 V=15u*sin(2*pi*6*time+0.6)
B15 EEG_FINAL 0 V=V(DELTA_DYNAMIC)+V(THETA_DYNAMIC)+V(ALPHA_DYNAMIC)+V(BETA_DYNAMIC)
.ends EEG_INPUT_MODEL

.tran 0 10 0 100u
* HighPass Filter Stage
* LowPass Filter Stage
.backanno
.end
